US05686486
1-(2-Methoxyphenyl)propanol
To a time-dried flask containing a solution of o-anisaldehyde (2.00 g) in dry tetrahydrofuran (9.8 mL) at 0° C. under nitrogen is added a solution of ethylmagnesium bromide (3M in diethyl ether, 5.4 mL) in dry tetrahydrofuran (5.4 mL) over 25 min. The resulting mixture is stirred at 0° C. for 1 hr, quenched with saturated aqueous ammonium chloride (15 mL), and the layers are separated. The aqueous phase is extracted with diethyl ether (2×30 mL) and the combined organic phase is washed with saline (15 mL), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give an oil which is then chromatographed on silica gel (230-400 mesh, 250 g), eluting with a gradient of ethyl acetate/hexane (5/95-10/90). Pooling of fractions having an Rf =0.44 by TLC (ethyl acetate/hexane, 25/75) and removal of solvent gives the title compound.

reactant | o-anisaldehyde | 2.00 g | C(C=1C(=CC=CC1)OC)=O | C8H8O2
reactant | ethylmagnesium bromide | 3M, 5.4 mL | C(C)[Mg]Br
solvent | tetrahydrofuran | 9.8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.4 mL | O1CCCC1 | C4H8O
product | 1-(2-Methoxyphenyl)propanol | COC1=C(C=CC=C1)C(CC)O | C10H14O2
